* C:\Users\sahin\OneDrive\Documents\LTspice\EEE 313 - Lab 2\Draft1.asc
Q1 Vc Vb 0 0 2N2222
R1 N001 Vc 200
R2 N001 Vb 3k
R3 Vb 0 33k
V1 N001 0 15
.model NPN NPN
.model PNP PNP
.lib C:\Users\sahin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1 0
.backanno
.end
