* C:\Users\sahin\OneDrive\Documents\LTspice\EEE 313 - Lab 3\Draft2.asc
R1 N002 N001 50
R2 N003 N002 17.8
L1 N004 N003 217µ
C1 N002 0 47n
C2 N004 0 47n
R3 N004 0 47.5
V1 N001 0 AC 1
.ac oct 10 10000 1000000
.backanno
.end
